US04536402
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
A solution of 1.1 ml (10.8 mmols) of 30% hydrogen peroxide and 1.1 gm (10 mmols) of selenium dioxide in 5 ml of water was added dropwise, while stirring, to a solution of 2.53 gm (10 mmols) of (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one in 20 ml of methanol. The reaction temperature was not allowed to exceed +25° C. After 20 minutes, the reaction mixture was diluted with 100 ml of water, the reaction product was separated by suction filtering and recrystallized from ethanol/ethyl acetate (1:1 v/v) using activated charcoal.

reactant | hydrogen peroxide | 10.8 mmols, 1.1 ml | OO | H2O2
reactant | selenium dioxide | 10 mmols, 1.1 gm | [Se](=O)=O | O2Se
reactant | (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | 10 mmols, 2.53 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
solvent | water | 5 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
